US05290934
To ethyl 2-methyl-3,4,6-trifluorobenzoylacetate (3.2 g) are added acetic anhydride (3.0 g) and triethoxymethane (2.7 g) and the mixture is refluxed for 1 hour. After concentrating, ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-ethoxyacrylate (3.5 g) is obtained.

reactant | ethyl 2-methyl-3,4,6-trifluorobenzoylacetate | 3.2 g | CC1=C(C(=O)CC(=O)OCC)C(=CC(=C1F)F)F | C12H11F3O3
reactant | acetic anhydride | 3.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethoxymethane | 2.7 g | C(C)OC(OCC)OCC | C7H16O3
product | ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-ethoxyacrylate | 3.5 g | CC1=C(C(=O)C(C(=O)OCC)=COCC)C(=CC(=C1F)F)F | C15H15F3O4
